US07592456B2
Methyl 2-{[6-(4-fluorophenyl)-2-naphthyl]sulfonyl}benzoate
The title compound was prepared from sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate (2.2 g, 7.13 mmol) and methyl 2-iodobenzoate (1.06 mL, 7.0 mmol) according to the methods of Example 6 Step 4. Purification by flash column chromatography eluting with a 20-50% ethyl acetate/isohexane gradient gave methyl 2-{[6-(4-fluorophenyl)-2-naphthyl]sulfonyl}benzoate (1.7 g, 58%). 1H NMR (500 MHz, CDCl3) δ 8.58 (1H, s), 8.25-8.16 (1H, m), 8.06 (1H, d, J=8.5 Hz), 8.01 (1H, s), 8.00-7.92 (2H, m), 7.81 (1H, dd, J=1.7, 8.5 Hz), 7.71-7.54 (5H, m), 7.23-7.13 (2H, m), 3.96 (3H, s); m/z (ES+) 421 [MH+].

reactant | sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate | 7.13 mmol, 2.2 g | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)[O-].[Na+]
reactant | methyl 2-iodobenzoate | 7.0 mmol, 1.06 mL | IC1=C(C(=O)OC)C=CC=C1 | C8H7IO2
product | methyl 2-{[6-(4-fluorophenyl)-2-naphthyl]sulfonyl}benzoate | 1.7 g, 58% | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C24H17FO4S
